US07846956B2
5.55 g of ethyl 5-(1-hydroxyethyl)-isoxazole-3-carboxylate was dissolved in 30 ml of N,N-dimethylformamide, and 2.38 g of imidazole and 5.28 g of t-butyldimethylsilyl chloride were then added. The mixture was stirred at room temperature for 10 hours. After water was added, the reaction mixture was extracted with methyl-t-butyl ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to obtain 8.95 g of ethyl 5-[1-(t-butyldimethylsilanyloxy)ethyl]isoxazole-3-carboxylate.

reactant | ethyl 5-(1-hydroxyethyl)-isoxazole-3-carboxylate | 5.55 g | OC(C)C1=CC(=NO1)C(=O)OCC | C8H11NO4
reactant | imidazole | 2.38 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 5.28 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 5-[1-(t-butyldimethylsilanyloxy)ethyl]isoxazole-3-carboxylate | 8.95 g | [Si](C)(C)(C(C)(C)C)OC(C)C1=CC(=NO1)C(=O)OCC | C14H25NO4Si
